US06174881B1
A solution of 10.9 g of 2-amino-7-chloro-5-phenyl-3H-1,4-benzodiazepine (K. Meguro, H. Tawada & Y. Kuwada, Yakugaku Zasshi, 1973, 93, 1253-1262) and 5.2 g of 1,3-dichloroacetone in 200 ml of dioxan was treated with 3.13 g of anhydrous sodium hydrogen carbonate and stirred at 98° C. for 22 h. After cooling the inorganic salts were filtered off, the filtrate was treated with 0.93 g of p-toluenesulphonic acid and stirred at 98° C. for 1.5 h. 74.5 ml of 1N aqueous sodium hydroxide solution and 2.5 g of active charcoal were added to this solution and the mixture was stirred at 80° C. for 2 h. After cooling the mixture was filtered over Dicalite and the filtrate was concentrated in a vacuum. The residue was taken up in dichloromethane and water and the aqueous phase was extracted four times with chloroform. The chloroform was evaporated in a vacuum. The residue (about 8 g) was crystallized from ethyl acetate. The crystals (7.3 g) were filtered off, dissolved in dichloromethane and chromatographed over 180 g of silica gel. The desired product was eluted with dichloromethane containing 2 to 4% ethanol and was recrystallized from ethyl acetate/ethanol 2:1. There were obtained 3.4 g of 8-chloro-6-phenyl-4H-imidazo[1,2-a][1,4]benzodiazepine-2-methanol of m.p. 203-204° C., which was converted into the hydrochloride, m.p. 252-254° C.

reactant | 2-amino-7-chloro-5-phenyl-3H-1,4-benzodiazepine | 10.9 g | NC1=NC2=C(C(=NC1)C1=CC=CC=C1)C=C(C=C2)Cl | C15H12ClN3
reactant | 1,3-dichloroacetone | 5.2 g | ClCC(=O)CCl | C3H4Cl2O
reactant | sodium hydrogen carbonate | 3.13 g | C(O)([O-])=O.[Na+]
solvent | dioxan | 200 ml | O1CCOCC1 | C4H8O2
product | 8-chloro-6-phenyl-4H-imidazo[1,2-a][1,4]benzodiazepine-2-methanol | 3.4 g | ClC=1C=CC2=C(C(=NCC=3N2C=C(N3)CO)C3=CC=CC=C3)C1 | C18H14ClN3O
